US07608639B2
A mixture of 2-fluoro-3-methoxybenzotrifluoride (4.76 g, 24.5 mmol), phenol (2.30 g, 24.4 mmol) and 325 mesh potassium carbonate (4.07 g, 29.4 mmol) in dry DMSO (50 mL) is heated to 130° C. and stirred 17 hours under N2. The reaction filtered to remove the solids, and the filtrate is acidified with 1 N HCl. The mixture is then diluted with water and extracted with Et2O. The organic layer is dried (Na2SO4) and the solvent is removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using 12/1 hexanes/ethyl acetate to afford 3.47 g (53%) of 2-phenoxy-3-trifluoromethyl-anisole (Rf=0.30 (4/1 hexanes/EtOAc) that is contaminated with starting 2-fluoro-1-methoxy-3-trifluoromethyl-benzene.

reactant | 2-fluoro-3-methoxybenzotrifluoride | 24.5 mmol, 4.76 g | FC1=C(C=CC=C1OC)C(F)(F)F | C8H6F4O
reactant | phenol | 24.4 mmol, 2.30 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 29.4 mmol, 4.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 2-phenoxy-3-trifluoromethyl-anisole | 3.47 g, 53% | O(C1=CC=CC=C1)C1=C(C=CC=C1C(F)(F)F)OC | C14H11F3O2
